US05877191
Step A: 2-Bromo-1-isopropoxy-4-(trifluoromethyl)benzene
Powdered potassium carbonate (1.72 g, 12.5 mmol) and 2-iodopropane (1.16 mL, 1.98 g, 11.6 mmol) were added to a solution of 2-bromo-4-(trifluoromethyl)phenol (2.00 g, 8.30 mmol) in DMF. The mixture was stirred overnight at RT and then partitioned between hexane (100 mL) and water (100 mL). The organic layer was washed with saturated aqueous sodium chloride (50 mL) and the aqueous layers were extracted in succession with hexane (50 mL). The organic layers were dried over sodium sulfate, decanted, and evaporated. The crude product was purified by flash column chromatography, eluting with hexane, to give the title compound. Mass spectrum (EI): m/z=282 (M+).

reactant | potassium carbonate | 12.5 mmol, 1.72 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-iodopropane | 11.6 mmol, 1.16 mL, 1.98 g | IC(C)C | C3H7I
reactant | 2-bromo-4-(trifluoromethyl)phenol | 8.30 mmol, 2.00 g | BrC1=C(C=CC(=C1)C(F)(F)F)O | C7H4BrF3O
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-Bromo-1-isopropoxy-4-(trifluoromethyl)benzene | BrC1=C(C=CC(=C1)C(F)(F)F)OC(C)C | C10H10BrF3O
